US07666888B2
3-(2-Chlorophenyl)-N,N,5-trimethylisoxazole-4-carboxamide
To 3-(2-chlorophenyl)-5-methylisoxazol-4-carboxylic acid (25 mg, 0.10 mmol) was added thionyl chloride (1 mL) and the neat solution allowed to stir 60° C. After 30 min, excess thionyl chloride was evaporated and dimethyl amine (40 μL, 0.08 mmol, 2M in tetrahydrofuran) was added and allowed to stir overnight at ambient temperature. The residue was purified using reversed phase HPLC to afford the title compound (5 mg). HRMS (ESI, pos. ion) m/z calcd for C13H13ClN2O2: 264.0666, found 264.0669.

reactant | 3-(2-chlorophenyl)-5-methylisoxazol-4-carboxylic acid | 0.10 mmol, 25 mg | ClC1=C(C=CC=C1)C1=NOC(=C1C(=O)O)C | C11H8ClNO3
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl amine | 0.08 mmol, 2M, 40 μL | CNC | C2H7N
product | 3-(2-Chlorophenyl)-N,N,5-trimethylisoxazole-4-carboxamide | 5 mg | ClC1=C(C=CC=C1)C1=NOC(=C1C(=O)N(C)C)C | C13H13ClN2O2
